US04075227
Preparation of 2-(4-Methoxybenzoyl)-3-phenyl-6-methoxybenzothiophene
To 500 ml. of 1,2-dichloroethane were added 24.0 g. (0.10 mole) of 3-phenyl-6-methoxybenzothiophene and 17.1 g. (0.10 mole) of p-methoxybenzoyl chloride. The mixture was cooled to 0° C., and 13.4 g. (0.10 mole) of aluminum chloride were added. The mixture was stirred for 1 hour, and ice then was added to the mixture. The organic layer was separated, washed with water, and evaporated. To the residue were added a mixture of methanol and 5N sodium hydroxide. The mixture was refluxed for 30 minutes and evaporated. To the residue were added ether and water. The ether layer was separated, washed with 1N sodium hydroxide, 1N hydrochloric acid, and aqueous sodium chloride solution. The ether layer then was dried over magnesium sulfate, filtered, and evaporated to give crude product which was recrystallized from methanol to obtain 34.2 g. (91 percent) of the title compound, m.p. 127°-128° C.

reactant | 3-phenyl-6-methoxybenzothiophene | 0.10 mole | C1(=CC=CC=C1)C1=CSC2=C1C=CC(=C2)OC | C15H12OS
reactant | p-methoxybenzoyl chloride | 0.10 mole | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | aluminum chloride | 0.10 mole | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-(4-Methoxybenzoyl)-3-phenyl-6-methoxybenzothiophene | 91 percent | COC1=CC=C(C(=O)C=2SC3=C(C2C2=CC=CC=C2)C=CC(=C3)OC)C=C1 | C23H18O3S
